US20010056089A1
A solution of 4-methoxycarbonyl-1-(trityl)pyrazole (600 g) in THF (3.5 L) was added portionwise to a suspension of lithium aluminum hydride (61.8 g) in THF (2.0 L). After stirring for 1 hour, water (62 ml) was added. The mixture was further diluted with 15% sodium hydroxide solution (62 ml) and water (186 ml) and filtered. The residue was washed with chloroform-methanol (10/1; 2 L). The filtrate was concentrated under reduced pressure. The residual powder was dissolved in methylene chloride (6 L) and the solution was washed with 10% sodium chloride solution (1 L) . The organic layer was taken and dried over magnesium sulfate (400 g) and the solvent was distilled off. The residual powder was collected, triturated with 2 portions of IPE (2 L each) and air-dried overnight to provide 4-hydroxymethyl-1-(trityl)pyrazole (412 g).

reactant | 4-methoxycarbonyl-1-(trityl)pyrazole | 600 g | COC(=O)C=1C=NN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H20N2O2
reactant | lithium aluminum hydride | 61.8 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 3.5 L | C1CCOC1 | C4H8O
solvent | THF | 2.0 L | C1CCOC1 | C4H8O
solvent | sodium hydroxide | 62 ml | [OH-].[Na+]
solvent | water | 186 ml | O | H2O
solvent | water | 62 ml | O | H2O
product | 4-hydroxymethyl-1-(trityl)pyrazole | 412 g | OCC=1C=NN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H20N2O
